US09376442B2
(1R*,2S*,4R*)-4-{[tert-Butyl(diphenyl)silyl]oxy}-2-fluorocyclohexanol
L-Selectride® (1M in THF; 69.0 mL; 69.0 mm0l) is dropped into a stirred solution of (2S*,4R*)-4-{[tert-butyl(diphenyl)silyl]oxy}-2-fluorocyclohexanone (example C14; 23.3 g; 62.8 mmol) in dry THF (230 mL) at −15° C. The reaction mixture is stirred over night and cooled to 0° C. before careful addition of ice cold water (100 mL), followed by dropwise addition of H2O2 (30% solution in water; 39.0 mL). After 30 min. saturated Na2SO3-solution (80 mL) is dropwise added at 0° C. tert-BuOMe (300 mL) is added, the organic layer is separated and concentrated under reduced pressure. The aqueous layer is extracted with tert-BuOMe. All combined organic phases are washed with brine and dried over MgSO4. The solvent is removed under reduced pressure. The residue is chromatographed on silica gel (cyclohexane/AcOEt—10:0 to 9:1) to yield 15.5 g of the title compound as colourless liquid.

reactant | L-Selectride | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
reactant | (2S*,4R*)-4-{[tert-butyl(diphenyl)silyl]oxy}-2-fluorocyclohexanone | 62.8 mmol, 23.3 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@@H](C(CC1)=O)F | C22H27FO2Si
reactant | H2O2 | 39.0 mL | OO | H2O2
reactant | Na2SO3 | 80 mL | [O-]S(=O)[O-].[Na+].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 230 mL | C1CCOC1 | C4H8O
solvent | tert-BuOMe | 300 mL | C(C)(C)(C)OC | C5H12O
product | (1R*,2S*,4R*)-4-{[tert-Butyl(diphenyl)silyl]oxy}-2-fluorocyclohexanol | 15.5 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@@H]([C@@H](CC1)O)F | C22H29FO2Si
